US04681895
The N-(o-carboxyphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride (5.0 g, 0.013 mole) obtained above is dissolved in methanol (30 ml) and the mixture is added under ice-cooling to a solution of NaOH (3.25 g, 0.0813 mole) in water (10 ml), and the mixture is stirred under ice-cooling for 30 minutes and further stirred at room temperature for 2 hours. The resulting precipitates are taken by filtration and dissolved in acetic acid (50 ml). After evaporation of the solvent under reduced pressure, the residue is washed with methanol and recrystallized from acetic acid-water to give N-(o-carboxyphenyl)trans-4-guanidinomethylcyclohexanecarboxamide (2.5 g). m.p. 300°-310° C. (decomp.)

reactant | N-(o-carboxyphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 0.013 mole, 5.0 g | Cl.C(=O)(O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N
reactant | NaOH | 0.0813 mole, 3.25 g | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | N-(o-carboxyphenyl)trans-4-guanidinomethylcyclohexanecarboxamide | 2.5 g | C(=O)(O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N | C16H22N4O3
